US04012379
A mixture of 0.356 g. of 7-acetoacetamido-3-acetoxymethyl-3-cephem-4-carboxylic acid, 0.84 g. of sodium hydrogen carbonate, 0.246 g. of 5-methyl-1,3,4-thiadiazol-2-thiol and 20 ml. of a phosphate buffer of pH 6.4 is heated at 60° C for 7.5 hours. After cooling, it is washed with ethyl acetate, adjusted to pH 2 with 50 % phosphoric acid, saturated with sodium chloride and extracted with ethyl acetate. The ethyl acetate layer is dried over magnesium sulfate and concentrated under reduced pressure, followed by cooling with ice. The resultant crystals are recovered by suction-filtration, washed with hexane and dried. The described procedure gives 7-acetoacetamido-3-(5-methyl-1,3,4-thiadiazol-2-yl)thiomethyl-3-cephem-4-carboxylic acid as crystals melting at 177°-180° C (decomp.). Yield 0.274 g. (64 %).

reactant | 7-acetoacetamido-3-acetoxymethyl-3-cephem-4-carboxylic acid | C(CC(=O)C)(=O)NC1[C@@H]2N(C(=C(CS2)COC(C)=O)C(=O)O)C1=O | C14H16N2O7S
reactant | sodium hydrogen carbonate | C(O)([O-])=O.[Na+]
reactant | 5-methyl-1,3,4-thiadiazol-2-thiol | CC1=NN=C(S1)S | C3H4N2S2
reactant | phosphate | P(=O)([O-])([O-])[O-]
product | 7-acetoacetamido-3-(5-methyl-1,3,4-thiadiazol-2-yl)thiomethyl-3-cephem-4-carboxylic acid | C(CC(=O)C)(=O)NC1[C@@H]2N(C(=C(CS2)CSC=2SC(=NN2)C)C(=O)O)C1=O | C15H16N4O5S3
